* C:\Users\carlo\OneDrive\Documentos\GitHub\LabCircuitosEletronicos\ProjetoFinal.asc
R§10k N001 N004 R
R§5k N004 0 R
R3 N001 N002 R
R4 N005 0 R
M1 N002 N004 N005 N005 NMOS
RL Vo 0 R
C1 N004 N003 C
C2 Vo N002 C
Vdd N001 0 15
Vi N003 0 V
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\carlo\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
.backanno
.end
